US08003806B2
(b) Ethyl 3-(1H-benzimidazol-1-yl)-3-(1,1′-biphenyl)-4-ylpropanoate
To a solution of ethyl 3-(1H-benzimidazol-1-yl)-3-(1,1′-biphenyl)-4-yl-2-propenoate (318 mg, 861 μmol) in a mixture of ethanol and water (17:2, 4.2 mL) was added palladium on carbon (47 mg, 10% w/w Pd) and ammonium formate (218 mg, 3.46 mmol). The suspension was brought to reflux for 3 hours, cooled to room temperature, and was filtered through a pad of Celite® and evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (97:3) to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=6.51 min, MH+ 371.7].

reactant | ethyl 3-(1H-benzimidazol-1-yl)-3-(1,1′-biphenyl)-4-yl-2-propenoate | 861 μmol, 318 mg | N1(C=NC2=C1C=CC=C2)C(=CC(=O)OCC)C2=CC=C(C=C2)C2=CC=CC=C2 | C24H20N2O2
reactant | ammonium formate | 3.46 mmol, 218 mg | C(=O)[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | 4.2 mL | O | H2O
catalyst | palladium on carbon | 47 mg | [Pd] | Pd
product | Ethyl 3-(1H-benzimidazol-1-yl)-3-(1,1′-biphenyl)-4-ylpropanoate | N1(C=NC2=C1C=CC=C2)C(CC(=O)OCC)C2=CC=C(C=C2)C2=CC=CC=C2 | C24H22N2O2
